US06339160B1
To a solution of N-benzyloxycarbonyl-L-pyroglutamic acid (1.6 g, 6.0 mmols) and N-methylmorpholine (0.66 ml, 6.0 mmols) in anhydrous THF (10 ml), cooled at −15° C. was added dropwise under stirring an equivalent quantity of isobutylchloroformate (0.82 ml, 6.0 mmols). After 10 minutes a solution of L-leucine tertbutylester hydrochloride (1.34 g, 6.0 mmols) and N-methylmorpholinee (0.66 ml, 6.0 mmols) in anhydrous THF (9 ml) was slowly added maintaining the temperature at −15° C. for 2 hours. The reaction mixture was diluted with EtOAc (70 ml) and washed with saturated NaCl solution (20 ml), KHSO4 1M (20+10 ml), saturated NaHCO3 solution (20+10 ml) and saturated NaCl solution (20 ml). The organic phase was dried on Na2SO4 and the solvent was removed at reduced pressure. The crystallization of raw material from EtOAc/n-hexane gave N-benzyloxycarbonyl-L-pyroglutamyl-L-leucine tertbutylester as white crystals: 2.0 g (77%); m.p. 130-1° C.; [a]D22=−70° (1, methanol); IR (CHCl3); 3420, 2958, 1794, 1723, 1514, 1303, 1152 cm−1; 1H-NMR (CDCl3): d 0.8-0.91 [m, 6, CH2CH(CH3)2], 1.20-1.67 [m, 3, CH2CH(CH3)2 and 1.43 (s, 9, OC(CH3)3], 2.00-2.93 (m, 4, CH2CH2 of pGlu), 4.27-4.61 (m, 2, 2 aCH), 5.22 (s, 2, CH2 benzylico), 6.24 (d, 1, NH, J=8 Hz), 7.28 (s, 5, benzylic aromatics). Calculated for C23H32N2O6: C, 63.87; H, 7.46; N, 6.48; Found C, 64.20; H, 7.60; N, 6.48%.

reactant | N-benzyloxycarbonyl-L-pyroglutamic acid | 6.0 mmols, 1.6 g | C(C1=CC=CC=C1)OC(=O)N1[C@@H](CCC1=O)C(=O)O | C13H13NO5
reactant | N-methylmorpholine | 6.0 mmols, 0.66 ml | CN1CCOCC1 | C5H11NO
reactant | isobutylchloroformate | 6.0 mmols, 0.82 ml | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | L-leucine tertbutylester hydrochloride | 6.0 mmols, 1.34 g | Cl.C(C)(C)(C)OC([C@@H](N)CC(C)C)=O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 9 ml | C1CCOC1 | C4H8O
solvent | EtOAc | 70 ml | CCOC(=O)C | C4H8O2
product | N-benzyloxycarbonyl-L-pyroglutamyl-L-leucine tertbutylester | C(C)(C)(C)OC([C@@H](NC([C@H]1N(C(CC1)=O)C(=O)OCC1=CC=CC=C1)=O)CC(C)C)=O | C23H32N2O6
